US07414060B2
6-Methyl-3-(5-methyl-pyridin-3-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, was prepared from 6-Methyl-3-(5-methyl-pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester and 2-Amino-4-methylthiazole in accordance with the general method of Example 78, step 2 to yield the final compound as a yellow solid, MS (ISP): m/e=340.3 (M+H+).

reactant | 6-Methyl-3-(5-methyl-pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=C(C1)C)C | C15H17N3O2
reactant | 2-Amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
product | 6-Methyl-3-(5-methyl-pyridin-3-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=C(C1)C)C | C17H17N5OS
